US06187224B1
At 0° C., first 7.2 g of bromine and then a solution of 3.0 g of 2,2′-diacetyl-9,9′-spirobifluorene in a small amount of dioxane were added dropwise with stirring to a solution of 6.0 g of sodium hydroxide in 30 ml of water. After the mixture had been stirred for a further 1 hour at room temperature, 1 g of sodium hydrogensulfite, dissolved in 20 ml of water, was added to the clear yellow solution. Following acidification with conc. hydrochloric acid, the colorless product which had precipitated out was filtered off and washed with a small amount of water. Recrystallization from ethanol produced 9,9′-spirobifluorene-2,2′-dicarboxylic acid as water-clear prisms (m.p. 352° C.).

reactant | bromine | 7.2 g | BrBr | Br2
reactant | 2,2′-diacetyl-9,9′-spirobifluorene | 3.0 g | C(C)(=O)C1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC(=CC13)C(C)=O | C29H20O2
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
reactant | sodium hydrogensulfite | 1 g | S(=O)(O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 30 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 9,9′-spirobifluorene-2,2′-dicarboxylic acid | C1=C(C=CC=2C3=CC=CC=C3C3(C12)C1=CC=CC=C1C=1C=CC(=CC13)C(=O)O)C(=O)O | C27H16O4
